US05948788
To a solution of 3-benzylmorphine (12.7 g, 33.9 mmol) in CH2Cl2 (300 ml), was added triethylamine (10 ml, 99%, 71.2 mmol), acetic anhydride (7.5 ml, 99%, 78.6 mmol), and 4-dimethylaminopyridine (0.3 g). The reaction mixture was heated under reflux for 2 hr, cooled with an ice--H2O bath, then transferred to a separatory funnel, and washed with cold 10% aqueous NaHCO3 solution (3×100 ml). The organic layer was separated and dried over anhydrous Na2SO4. Removal of solvent gave 6-acetyl-3-benzylmorphine (13.87 g, 96% yield). IR (KBr)(ν, cm-1): 2900 (m, sharp), 1727 (s, sharp, AcO); NMR (δH)(CDCl3): 7.47-7.20 (5, m, --C6H5), 6.68 (1, d, J, 8.1, 2-H), 6.48 (1, d, J, 8.2, 1-H), 5.63 (1, dm, J, 10.1, 7-H), 5.43 (1, dt, J, 10.1 & 2.3, 8-H), 5.25-5.15 (1, m, 6-H), 5.14 (2, s, --OCH2Ph), 5.10 (1, dd, J, 6.7 & 1.1, 5-H), 3.34 (1, dd, J, 6.0 & 3.3, 9-H), 3.01 (1, d, J, 18.6, 10-Hβ), 2.79-2.70 (1, m, 14-H), 2.59 (1, dd, J, 12.1 & 3.4, 16-He), 2.43 (3, s, N--CH3), 2.37 (1, td, J, 11.8 & 3.6, 16-Ha), 2.27 (1, dd, J, 18.8 & 6.6, 10-Hα), 2.10 (3, s, AcO), 2.04 (1, td, J, 11.9 & 5.1, 15-Ha), 1.86 (1, dm, J, 12.5, 15-He).

reactant | 3-benzylmorphine | 33.9 mmol, 12.7 g | C(C1=CC=CC=C1)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C24H27NO3
reactant | triethylamine | 71.2 mmol, 10 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 78.6 mmol, 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-acetyl-3-benzylmorphine | 13.87 g, 96% yield | C(C)(=O)[C@]1([C@H]2[C@]34C5=C(C(CC=C5C[C@H]([C@@H]3C=C1)N(C)CC4)(O)CC4=CC=CC=C4)O2)O | C26H29NO4
